************************************************************************
* auCdl Netlist:
* 
* Library Name:  EE113_DSP
* Top Cell Name: 5_6_Mul_draft3
* View Name:     schematic
* Netlisted on:  Dec 17 23:07:28 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EE113Lab2
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv GND VDD VI VO
*.PININFO VI:I VO:O GND:B VDD:B
MNM0 VO VI GND GND n18 W=220n L=180n m=1
MPM0 VO VI VDD VDD p18 W=660n L=180n m=1
.ENDS

************************************************************************
* Library Name: EE113Lab2
* Cell Name:    And_Gate
* View Name:    schematic
************************************************************************

.SUBCKT And_Gate GND VDD VIN_A VIN_B VOUT
*.PININFO VIN_A:I VIN_B:I VOUT:O GND:B VDD:B
MPM1 net16 VIN_B VDD VDD p18 W=440n L=180n m=1
MPM0 net16 VIN_A VDD VDD p18 W=440n L=180n m=1
MNM1 net15 VIN_B GND GND n18 W=220n L=180n m=1
MNM0 net16 VIN_A net15 GND n18 W=220n L=180n m=1
XI0 GND VDD net16 VOUT / inv
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    5_6_Mul_draft3
* View Name:    schematic
************************************************************************

.SUBCKT 5_6_Mul_draft3 A<4> A<3> A<2> A<1> A<0> B<5> B<4> B<3> B<2> B<1> B<0> 
+ GND VDD X<5> X<4> X<3> X<2> X<1> X<0> Y<1> Y<0> Z<0>
*.PININFO X<5>:I X<4>:I X<3>:I X<2>:I X<1>:I X<0>:I Y<1>:I Y<0>:I A<4>:O 
*.PININFO A<3>:O A<2>:O A<1>:O A<0>:O B<5>:O B<4>:O B<3>:O B<2>:O B<1>:O 
*.PININFO B<0>:O Z<0>:O GND:B VDD:B
XI2 GND VDD Y<1> X<5> B<5> / And_Gate
XI1 GND VDD Y<0> X<5> A<4> / And_Gate
XI7 GND VDD Y<1> X<4> B<4> / And_Gate
XI6 GND VDD Y<0> X<4> A<3> / And_Gate
XI9 GND VDD Y<1> X<3> B<3> / And_Gate
XI8 GND VDD Y<0> X<3> A<2> / And_Gate
XI11 GND VDD Y<1> X<2> B<2> / And_Gate
XI10 GND VDD Y<0> X<2> A<1> / And_Gate
XI13 GND VDD Y<1> X<1> B<1> / And_Gate
XI12 GND VDD Y<0> X<1> A<0> / And_Gate
XI14 GND VDD Y<0> X<0> Z<0> / And_Gate
XI15 GND VDD Y<1> X<0> B<0> / And_Gate
.ENDS

